US08168658B2
Step A: Methyl 4-[4-[(4-chlorophenyl)amino]-3-(4-methylpiperazin-1-yl)-4-oxobutyl]benzoate.
Methyl 4-(3-oxopropyl)benzoate (43.5 mg, 0.226 mmol), 4-chlorophenyl isocyanide (43.5 mg, 0.316 mmol), N-methylpiperazine (40.0 μL, 0.36 mmol) and AcOH (20.0 μL, 0.36 mmol) were dissolved in 100 μL of trifluoroethanol and heated at 50° C. for 3 hours. The reaction mixture was diluted with 2 mL of methanol and purified by reversed phase HPLC to afford the desired product. MS cal'd 430.2 (MH+), exp 430.1 (MH+).

reactant | Methyl 4-(3-oxopropyl)benzoate | 0.226 mmol, 43.5 mg | O=CCCC1=CC=C(C(=O)OC)C=C1 | C11H12O3
reactant | 4-chlorophenyl isocyanide | 0.316 mmol, 43.5 mg | ClC1=CC=C(C=C1)[N+]#[C-] | C7H4ClN
reactant | N-methylpiperazine | 0.36 mmol, 40.0 μL | CN1CCNCC1 | C5H12N2
reactant | AcOH | 0.36 mmol, 20.0 μL | CC(=O)O | C2H4O2
solvent | trifluoroethanol | 100 μL | C(C(F)(F)F)O | C2H3F3O
solvent | methanol | 2 mL | CO | CH4O
product | Methyl 4-[4-[(4-chlorophenyl)amino]-3-(4-methylpiperazin-1-yl)-4-oxobutyl]benzoate | ClC1=CC=C(C=C1)NC(C(CCC1=CC=C(C(=O)OC)C=C1)N1CCN(CC1)C)=O | C23H28ClN3O3
